US07550629B2
A. 4,4,4-Trifluoro-2-(4-fluoro-3-methyl-benzenesulfonylamino)-3-trifluoromethyl-butyric acid ethyl ester
To a vial containing a solution of 4-fluoro-3-methylbenzenesulfonyl chloride (50 mg, 0.24 mmol) and 2-amino-4,4,4-trifluoro-3-trifluoromethyl-butyric acid ethyl ester (61 mg, 0.24 mmol) in anhydrous dichloroethane (1 mL) was added pyridine (58 μL, 0.719 mmol). The vial was capped and shaken for 18 h. The solvent was removed in vacuo and the residue transferred to a separatory funnel with EtOAc (100 mL) and washed with distilled water (100 mL×2). The organic layer was removed and the combined aqueous washings were extracted with EtOAc (100 mL×2). The organic extracts were combined, washed with brine (100 mL), dried (MgSO4), filtered, and evaporated to give a white solid (66 mg). This material was purified by Gilson RP-HPLC (column YMC Combiprep 50×20 mm, gradient 10-100% CH3CN: H2O) to afford a white solid (29 mg, 28%). Mass Spectrum (−ESI): 424 [M−H]−.

reactant | 4-fluoro-3-methylbenzenesulfonyl chloride | 0.24 mmol, 50 mg | FC1=C(C=C(C=C1)S(=O)(=O)Cl)C | C7H6ClFO2S
reactant | 2-amino-4,4,4-trifluoro-3-trifluoromethyl-butyric acid ethyl ester | 0.24 mmol, 61 mg | C(C)OC(C(C(C(F)(F)F)C(F)(F)F)N)=O | C7H9F6NO2
reactant | pyridine | 0.719 mmol, 58 μL | N1=CC=CC=C1 | C5H5N
solvent | dichloroethane | 1 mL | ClC(C)Cl | C2H4Cl2
product | 4,4,4-Trifluoro-2-(4-fluoro-3-methyl-benzenesulfonylamino)-3-trifluoromethyl-butyric acid ethyl ester | 66 mg | C(C)OC(C(C(C(F)(F)F)C(F)(F)F)NS(=O)(=O)C1=CC(=C(C=C1)F)C)=O | C14H14F7NO4S
